; test harness for luts

.lib /home/arya/src/pdk-root/share/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt

.include /home/arya/src/pdk-root/share/pdk/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_ef_sc_hd__decap_12.spice
.include /home/arya/src/pdk-root/share/pdk/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_ef_sc_hd__fakediode_2.spice
.include /home/arya/src/pdk-root/share/pdk/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_ef_sc_hd__fill_12.spice
.include /home/arya/src/pdk-root/share/pdk/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_ef_sc_hd__fill_4.spice
.include /home/arya/src/pdk-root/share/pdk/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_ef_sc_hd__fill_8.spice
.include /home/arya/src/pdk-root/share/pdk/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice


; sky130 models seem to require mosfet params scaled by 1e6 ffs
; you can use (in vim) %s/\(\d\+\)\@<=n/m/g
;.include fake_lut.sp

.include LutB.sp

;.include lut.sp
;.include lut.spef.sp

.param num_bits=18
.param scan_clock_period=2n
.param test_start={19 * scan_clock_period + 50p}
.param read_clock=1.5n

.subckt testbench
+ VSS

; for std-cell lut without spef use:
;+ VSS VPWR config_clk config_en config_in config_out out a0 a1 a2 a3
; for std-cell LUT with spef use:
;+ VSS VSS VPWR config_clk config_en config_in config_out out a0 a1 a2 a3
; for bfg lut use:
; a0 a1 a2 a3 out config_in config_out config_clk VPWR VPWR VSS VSS
; for fake_lut use:
; a0 a1 a2 a3 out config_in config_out config_clk VPWR VSS

xlut
+ a0 a1 a2 a3 bypass mux_out reg_out scan_in scan_out scan_clk VPWR VPWR VSS VSS
+ LutB
+ ; No parameters

cscan_load scan_out VSS 2f

* FIXME(aryap): Manually testing on the clock buffers required this modification
* for things to work (in clk_buf_0):
* xnfet_1
* + X P VGND VNB 
* + sky130_fd_pr__nfet_01v8
* + PARAMS: l={150m} w={580m} 
* 
* xpfet_1
* + X P VPWR VPB 
* + sky130_fd_pr__pfet_01v8_hvt
* + PARAMS: l={150m} w={840m} 

vpower
+ VPWR VSS 
+ dc {1.8} 
+ ac {0} 
+ ; No parameters

*vclock
*+ config_clk VSS
*+ pulse ({0} {1.8} {scan_clock_period / 4} {50p} {50p} {scan_clock_period / 2} {scan_clock_period})

vconfig_clock
+ scan_clk VSS
+ pat ({1.8} {0} {0} {50p} {50p} {scan_clock_period / 2} b0101010101010101010101010101010101010 0)

*vconfig_data
*+ config_in VSS
*+ pulse ({0} {1.8} {0} {50p} {50p} {scan_clock_period} {2 * scan_clock_period})

vscan_data
+ scan_in VSS
+ pat ({1.8} {0} {0} {50p} {50p} {scan_clock_period} b10011001100110011001100110010)

vbypass
+ bypass VSS 0

* ???
*vconfig_en
*+ config_en VSS
*+ pulse ({0} {1.8} {0} {50p} {50p} {15.5 * scan_clock_period} {10 * 16 * scan_clock_period})

* 
*va0_driver
*+ a0 VSS 
*+ pulse ({0} {1.8} {test_start} {50p} {50p} {read_clock / 2} {read_clock}) 
*+ ; No parameters
*
*va1_driver
*+ a1 VSS 
*+ pulse ({0} {1.8} {test_start} {50p} {50p} {2 * (read_clock / 2)} {2 * (read_clock)}) 
*+ ; No parameters
*
*va2_driver
*+ a2 VSS 
*+ pulse ({0} {1.8} {test_start} {50p} {50p} {4 * (read_clock / 2)} {4 * (read_clock)}) 
*+ ; No parameters
*
*va3_driver
*+ a3 VSS 
*+ pulse ({0} {1.8} {test_start} {50p} {50p} {8 * (read_clock / 2)} {8 * (read_clock)}) 
*+ ; No parameters

*; FIXME(aryap): This is outdated.
*; the BFG LUT flip-flops are connected to the muxes in this order:
*; mux order                  scan order
*;         0  lut_dfxtp_0_1.Q          1
*;         1  lut_dfxtp_0_0.Q          0
*;         2  lut_dfxtp_0_2.Q          2
*;         3  lut_dfxtp_0_3.Q          3
*;         4  lut_dfxtp_1_5.Q         13
*;         5  lut_dfxtp_1_4.Q         12
*;         6  lut_dfxtp_1_6.Q         14
*;         7  lut_dfxtp_1_7.Q         15
*;         8  lut_dfxtp_1_2.Q         10
*;         9  lut_dfxtp_1_3.Q         11
*;        10  lut_dfxtp_1_1.Q          9
*;        11  lut_dfxtp_1_0.Q          8
*;        12  lut_dfxtp_0_6.Q          6
*;        13  lut_dfxtp_0_7.Q          7
*;        14  lut_dfxtp_0_5.Q          5
*;        15  lut_dfxtp_0_4.Q          4
*; but they are numbered for the their place in the scan chain.
*;
*; So to read in scan order, you have to read indices:
*; 1, 0, 2, 3, 15, 14, 12, 13, 11, 10, 8, 9, 5, 4, 6, 7
*va3_driver a3 VSS pat ({1.8} {0} {test_start} {50p} {50p} {read_clock / 2} b000001111111100000 0)
*va2_driver a2 VSS pat ({1.8} {0} {test_start} {50p} {50p} {read_clock / 2} b000001111000011110 0)
*va1_driver a1 VSS pat ({1.8} {0} {test_start} {50p} {50p} {read_clock / 2} b000111100110000110 0)
*va0_driver a0 VSS pat ({1.8} {0} {test_start} {50p} {50p} {read_clock / 2} b010011001100110010 0)

; read address into lut vertically:
va3_driver a3 VSS pat ({1.8} {0} {test_start} {50p} {50p} {read_clock / 2} b00000000111111110 0)
va2_driver a2 VSS pat ({1.8} {0} {test_start} {50p} {50p} {read_clock / 2} b00001111000011110 0)
va1_driver a1 VSS pat ({1.8} {0} {test_start} {50p} {50p} {read_clock / 2} b00110011001100110 0)
va0_driver a0 VSS pat ({1.8} {0} {test_start} {50p} {50p} {read_clock / 2} b01010101010101010 0)

.ends

.tran 1e-12 60e-9

xtop 0 testbench

.print tran format=csv v(*) i(*)

;.param first=8
* check MUX_OUT values for this!
.param first=4

.measure tran  d0 trig v(xtop:a0)=0.9 rise=1 targ v(xtop:mux_out)=0.9 rise={first+1}
.measure tran  d1 trig v(xtop:a0)=0.9 fall=1 targ v(xtop:mux_out)=0.9 fall={first+1}
.measure tran  d2 trig v(xtop:a0)=0.9 rise=2 targ v(xtop:mux_out)=0.9 rise={first+2}
.measure tran  d3 trig v(xtop:a0)=0.9 fall=2 targ v(xtop:mux_out)=0.9 fall={first+2}
.measure tran  d4 trig v(xtop:a0)=0.9 rise=3 targ v(xtop:mux_out)=0.9 rise={first+3}
.measure tran  d5 trig v(xtop:a0)=0.9 fall=3 targ v(xtop:mux_out)=0.9 fall={first+3}
.measure tran  d6 trig v(xtop:a0)=0.9 rise=4 targ v(xtop:mux_out)=0.9 rise={first+4}
.measure tran  d7 trig v(xtop:a0)=0.9 fall=4 targ v(xtop:mux_out)=0.9 fall={first+4}
.measure tran  d8 trig v(xtop:a0)=0.9 rise=5 targ v(xtop:mux_out)=0.9 rise={first+5}
.measure tran  d9 trig v(xtop:a0)=0.9 fall=5 targ v(xtop:mux_out)=0.9 fall={first+5}
.measure tran d10 trig v(xtop:a0)=0.9 rise=6 targ v(xtop:mux_out)=0.9 rise={first+6}
.measure tran d11 trig v(xtop:a0)=0.9 fall=6 targ v(xtop:mux_out)=0.9 fall={first+6}
.measure tran d12 trig v(xtop:a0)=0.9 rise=7 targ v(xtop:mux_out)=0.9 rise={first+7}
.measure tran d13 trig v(xtop:a0)=0.9 fall=7 targ v(xtop:mux_out)=0.9 fall={first+7}
.measure tran d14 trig v(xtop:a0)=0.9 rise=8 targ v(xtop:mux_out)=0.9 rise={first+8}
.measure tran d15 trig v(xtop:a0)=0.9 fall=8 targ v(xtop:mux_out)=0.9 fall={first+8}

.end
